US08912224B2
2-(2-o-Tolyl-chroman-6-yloxy)-thiazole-5-carboxylic acid (2-hydroxy-ethyl)-amide
To a solution of 2-(2-o-tolyl-chroman-6-yloxy)-thiazole-5-carboxylic acid lithium salt (100 mg, 0.27 mmol) in dimethylformamide (2 ml) 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (72 mg, 0.38 mmol, 1.4 eq), 1-hydroxy-benzotriazole (51 mg, 0.38 mmol, 1.4 eq) and N-methylmorpholine (68 mg, 0.67 mmol, 2.5 eq) were added and the mixture was stirred at room temperature for 15 min. Ethanolamine (25 mg, 0.40 mmol, 1.5 eq) was added and stirring was continued for 16 h. The mixture was diluted with water and the aqueous layer extracted with ethyl acetate. The combined organic layers were washed with a diluted aqueous solution of sodium carbonate and brine, dried over sodium sulfate and filtered, and the solvent was removed under reduced pressure. The crude product was purified by column chromatography (silica gel, ethyl acetate/methanol gradient). The desired compound was obtained as a white powder (43 mg, 39%).

reactant | 2-(2-o-tolyl-chroman-6-yloxy)-thiazole-5-carboxylic acid lithium salt | 0.27 mmol, 100 mg | [Li+].C1(=C(C=CC=C1)C1OC2=CC=C(C=C2CC1)OC=1SC(=CN1)C(=O)[O-])C
reactant | dimethylformamide | 0.38 mmol, 2 ml, 72 mg, 1.4 eq | CN(C=O)C | C3H7NO
reactant | 1-hydroxy-benzotriazole | 0.38 mmol, 51 mg, 1.4 eq | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-methylmorpholine | 0.67 mmol, 68 mg, 2.5 eq | CN1CCOCC1 | C5H11NO
reactant | Ethanolamine | 0.40 mmol, 25 mg, 1.5 eq | C(O)CN | C2H7NO
solvent | water | O | H2O
product | 2-(2-o-Tolyl-chroman-6-yloxy)-thiazole-5-carboxylic acid (2-hydroxy-ethyl)-amide | OCCNC(=O)C1=CN=C(S1)OC=1C=C2CCC(OC2=CC1)C1=C(C=CC=C1)C | C22H22N2O4S
